.title KiCad schematic
-60V1 -VDC TestPoint
+5V1 +5V TestPoint
C1 +5V Earth 100uF
C3 -5V Earth 100uF
GND1 Earth TestPoint
C2 -VDC Earth 100uF
J1 +5V -5V Earth -VDC Earth Screw_Terminal_01x05
C9 Net-_C9-Pad1_ Net-_C9-Pad2_ 1u
C8 Earth Net-_C8-Pad2_ 10n
R1 Net-_C8-Pad2_ -VDC 10M
R3 Net-_C9-Pad2_ Earth 20K
J2 Net-_C10-Pad1_ Earth Conn_Coaxial
C11 Earth +5VA 100n
J3 Net-_C10-Pad2_ Earth unconnected-_J3-Pad3_ Earth -5VA +5VA Earth Net-_C13-Pad2_ Conn_01x08_Female
C15 Earth -5VA 100n
C4 +5V Earth 10u
C6 +5VA Earth 10u
U1 Earth +5VA +5V LM1085-5.0
-5V1 -5V TestPoint
C7 -5VA Earth 10u
C5 -5V Earth 10u
IC1 Earth -5V -5VA LM2990T-5.0_NOPB
IC3 unconnected-_IC3-Pad1_ Net-_C14-Pad1_ Net-_C9-Pad2_ -5VA unconnected-_IC3-Pad5_ Net-_C14-Pad2_ +5VA unconnected-_IC3-Pad8_ OPA657UBG4
C16 Earth -5VA 100n
C13 Net-_C10-Pad2_ Net-_C13-Pad2_ 1.4p
R5 Net-_C10-Pad2_ Net-_C13-Pad2_ 100M
C12 Earth +5VA 100n
C17 Net-_C17-Pad1_ Net-_C17-Pad2_ 10n
C19 Earth Net-_C19-Pad2_ 10n
R12 Earth Net-_C22-Pad1_ 1K
R13 Net-_C22-Pad1_ Net-_C17-Pad1_ 1K
C22 Net-_C22-Pad1_ Net-_C17-Pad1_ 10p
R9 Net-_C17-Pad2_ Net-_C14-Pad2_ 1.5K
R10 Net-_C19-Pad2_ Net-_C17-Pad2_ 1.5K
J4 Net-_C9-Pad1_ Net-_J4-Pad2_ Earth -5VA +5VA Earth Earth Net-_C17-Pad1_ Conn_01x08_Female
R6 Net-_C14-Pad1_ Net-_C14-Pad2_ 470
C14 Net-_C14-Pad1_ Net-_C14-Pad2_ 10p
R7 Net-_C9-Pad1_ Net-_J4-Pad2_ 470
RV1 Net-_C9-Pad2_ Net-_C9-Pad2_ Net-_C9-Pad1_ 1M
R4 Earth Net-_C14-Pad1_ 20K
IC2 unconnected-_IC2-Pad1_ Net-_C10-Pad2_ Earth -5VA unconnected-_IC2-Pad5_ Net-_C13-Pad2_ +5VA unconnected-_IC2-Pad8_ OPA657UBG4
R2 Net-_C8-Pad2_ Net-_C10-Pad1_ 200M
C10 Net-_C10-Pad1_ Net-_C10-Pad2_ 10n
C20 Earth -5VA 100n
C18 Earth +5VA 100n
R8 Net-_C13-Pad2_ Net-_IC4-Pad3_ 100k
IC4 unconnected-_IC4-Pad1_ Earth Net-_IC4-Pad3_ -5VA unconnected-_IC4-Pad5_ Net-_C9-Pad1_ +5VA unconnected-_IC4-Pad8_ OPA657UBG4
R11 Net-_IC4-Pad3_ Net-_C9-Pad1_ 1M
J6 Net-_C17-Pad1_ Earth Conn_Coaxial
IC5 unconnected-_IC5-Pad1_ Net-_C22-Pad1_ Net-_C19-Pad2_ -5VA unconnected-_IC5-Pad5_ Net-_C17-Pad1_ +5VA unconnected-_IC5-Pad8_ OPA657UBG4
C23 Earth -5VA 100n
C21 Earth +5VA 100n
J5 Net-_C9-Pad1_ Earth Conn_Coaxial
.end
